US04255432
To a solution of 2 g 8-[2-(3-indolyl)ethyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one in 20 ml i-propyl alcohol is added sufficient 3% methanolic hydrogen chloride to make the solution acid to litmus. Addition of 250 ml diethyl ether followed by filtration affords 1.89 g 8-[2-(3-indolyl)ethyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride, mp 249°-254° (d).

reactant | 8-[2-(3-indolyl)ethyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 2 g | N1C=C(C2=CC=CC=C12)CCN1CCC2(CNC(O2)=O)CC1 | C17H21N3O2
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | i-propyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | 8-[2-(3-indolyl)ethyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride | 1.89 g | Cl.N1C=C(C2=CC=CC=C12)CCN1CCC2(CNC(O2)=O)CC1 | InChI=1S/C17H21N3O2.ClH/c21-16-19-12-17(22-16)6-9-20(10-7-17)8-5-13-11-18-15-4-2-1-3-14(13)15;/h1-4,11,18H,5-10,12H2,(H,19,21);1H
